US07659245B2
4-Methoxy-5-methyl-2-nitrobenzamide (110)
To a mixture of 4-methoxy-5-methyl-2-nitro-benzonitrile (8 g, 40 mmol) and water (50 ml) was added concentrated sulphuric acid (65 ml) and the mixture was stirred for 2.5 hours at 100-110° C. The mixture was allowed to stay overnight, filtered, washed with water and dried which gave the title compound (7 g, 83%).

reactant | 4-methoxy-5-methyl-2-nitro-benzonitrile | 40 mmol, 8 g | COC1=CC(=C(C#N)C=C1C)[N+](=O)[O-] | C9H8N2O3
reactant | sulphuric acid | 65 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | 4-Methoxy-5-methyl-2-nitrobenzamide | 7 g, 83% | COC1=CC(=C(C(=O)N)C=C1C)[N+](=O)[O-] | C9H10N2O4
